US05489691
(4R-cis)-1-[2-[6-[2-(diphenylamino)-2-oxoethyl]-2,2-dimethyl-1,3-dioxan-4-yl]ethyl]-5-(4-fluorophenyl)-2-(1-methylethyl)-N,4-diphenyl-1H-pyrrole-3-carboxamide is dissolved in methanol (300 mL) and reacted by adding 1.0N hydrochloric acid (100 mL) and stirring for 12 hours at room temperature. The white crystalline solid [R-(R*,R*)]-5-(4-fluorophenyl)-β,γ-dihydroxy-2-(1-methylethyl)-N,N,4-triphenyl-3-[(phenylamino)carbonyl]-1H-pyrrole-1-heptanamide is isolated by filtration (mp 228.5°-232.9° C., uncorrected). FTIR (KBr) 3400 (broad), 2850, 1640 cm-1 ;

reactant | (4R-cis)-1-[2-[6-[2-(diphenylamino)-2-oxoethyl]-2,2-dimethyl-1,3-dioxan-4-yl]ethyl]-5-(4-fluorophenyl)-2-(1-methylethyl)-N,4-diphenyl-1H-pyrrole-3-carboxamide | C1(=CC=CC=C1)N(C(C[C@H]1C[C@H](OC(O1)(C)C)CCN1C(=C(C(=C1C1=CC=C(C=C1)F)C1=CC=CC=C1)C(=O)NC1=CC=CC=C1)C(C)C)=O)C1=CC=CC=C1 | C48H48FN3O4
reactant | hydrochloric acid | 1.0N, 100 mL | Cl | ClH
reactant | methanol | 300 mL | CO | CH4O
product | 5-(4-fluorophenyl)-β,γ-dihydroxy-2-(1-methylethyl)-N,N,4-triphenyl-3-[(phenylamino)carbonyl]-1H-pyrrole-1-heptanamide | FC1=CC=C(C=C1)C1=C(C(=C(N1CCCC(C(CC(=O)N(C1=CC=CC=C1)C1=CC=CC=C1)O)O)C(C)C)C(=O)NC1=CC=CC=C1)C1=CC=CC=C1 | C45H44FN3O4
